US07598249B2
4-Benzyl-piperidine-1-carboxylic acid m-tolylamide
The title compound was prepared from 4-benzylpiperidine and 3-methylphenyl isocyanate. 1H NMR (400 MHz, CDCl3): 7.32-7.07 (m, 8H), 6.84-6.80 (m, 1H), 6.41 (br s, 1H), 4.06-4.00 (m, 2H), 2.78 (td, J=13 Hz, 2.4 Hz, 2H), 2.55 (d, J=7.0 Hz, 2H), 2.30 (s, 3H), 1.77-1.64 (m, 3H), 1.28-1.16 (m, 2H).

reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 3-methylphenyl isocyanate | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 4-Benzyl-piperidine-1-carboxylic acid m-tolylamide | C1(=CC(=CC=C1)NC(=O)N1CCC(CC1)CC1=CC=CC=C1)C | C20H24N2O
